US08426437B2
This compound is prepared according to synthesis 25, from 115 mg (0.35 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2), 147 μL (1.05 mmol) of triethylamine and 28 mg (0.42 mmol) of methylamine hydrochloride. After purification by chromatography on silica (eluent dichloromethane/methanol 9/1), 13 mg (11%) of 8-methylsulfamoyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.35 mmol, 115 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | triethylamine | 1.05 mmol, 147 μL | C(C)N(CC)CC | C6H15N
reactant | methylamine hydrochloride | 0.42 mmol, 28 mg | Cl.CN
product | 8-methylsulfamoyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 13 mg, 11% | CNS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3.C(C)C(=O)[O-] | InChI=1S/C12H11N3O3S.C3H6O2/c1-13-19(17,18)7-2-3-10-9(6-7)8-4-5-14-11(8)12(16)15-10;1-2-3(4)5/h2-6,13-14H,1H3,(H,15,16);2H2,1H3,(H,4,5)/p-1
